US07977370B2
N,N-dimethyl-4,4-bis(3-methylbenzofuran-2-yl)-1-phenylcyclohexanamine
3-methylbenzofuran (354 mg, 3 mmol) together with 4-(dimethylamino)-4-phenylcyclohexanone (651 mg, 3 mmol, synthesis cf. WO2008009415, ketone unit Ket-10) was dissolved in dichloromethane (25 ml) and mixed with trifluoromethane sulphonic acid (0.3 ml, 3.4 mmol). The batch was stirred for 20 h at RT. For work up the reaction mixture was mixed with 2N NaOH (10 ml). The mixture was stirred a further 20 min. After separation of the phases the aqueous phase was extracted with dichloromethane (3×20 ml). The combined organic extracts were dried over MgSO4 and then concentrated to low volume. The raw product (950 mg) obtained was purified by column chromatography (mobile solvent: EtOAc) and then recrystallised from ethanol (60 ml).

reactant | 3-methylbenzofuran | 3 mmol, 354 mg | CC1=COC2=C1C=CC=C2 | C9H8O
reactant | 4-(dimethylamino)-4-phenylcyclohexanone | 3 mmol, 651 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | trifluoromethane sulphonic acid | 3.4 mmol, 0.3 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N,N-dimethyl-4,4-bis(3-methylbenzofuran-2-yl)-1-phenylcyclohexanamine | 950 mg | CN(C1(CCC(CC1)(C=1OC2=C(C1C)C=CC=C2)C=2OC1=C(C2C)C=CC=C1)C1=CC=CC=C1)C | C32H33NO2
